US20010053785A1
(2R)-2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-propionic acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol, and (S)-(+)- lactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 112-114° C.; MS m/e 448 (M+);

reactant | 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C=CC=C2 | C27H20O2
reactant | (S)-(+)- lactic acid methyl ester | COC([C@@H](O)C)=O | C4H8O3
product | (2R)-2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-propionic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O[C@@H](C(=O)O)C)C=CC=C2 | C30H24O4
